US06509354B1
3.0 g (10.1 mmol) of 4-(4-trifluoromethylphenyl)phenyl ethoxymethyl ether dissolved in 30 ml of diethyl ether was stirred at −20° C. while 7.8 ml of a n-butyllithium solution in hexane (1.56 mol/1) was added dropwise. The resulting reaction mixture was stirred at room temperature for another 2 hours and cooled to 0° C., and 1.8 g (12.0 mmol) of dipropyl disulfide was added dropwise. The resulting reaction mixture was stirred at room temperature for further 2 hours and poured into ice-cold water. The ether layer was washed with water twice and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 2.6 g of [5-(4-trifluoromethylphenyl)-2-ethoxymethoxyphenyl]propyl sulfide (yield 69.5%) as a yellow viscous liquid (nD20 1.5491).

reactant | 4-(4-trifluoromethylphenyl)phenyl ethoxymethyl ether | 10.1 mmol, 3.0 g | C(C)OCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C16H15F3O2
reactant | n-butyllithium | 7.8 ml | C(CCC)[Li]
reactant | hexane | 1.56 mol | CCCCCC | C6H14
reactant | dipropyl disulfide | 12.0 mmol, 1.8 g | C(CC)SSCCC | C6H14S2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | [5-(4-trifluoromethylphenyl)-2-ethoxymethoxyphenyl]propyl sulfide | 2.6 g, yield 69.5% | FC(C1=CC=C(C=C1)C=1C=CC(=C(C1)SCCC)OCOCC)(F)F | C19H21F3O2S
